US04555247
Preparation of β-chloroethyl 2-nitro-4-(β-hydroxyethoxy)-phenylcarbamate
4 mols (792 g) of 3-nitro-4-aminophenoxyethanol are dissolved in 1,600 ml of dioxane. 2.4 mols (240 g) of calcium carbonate are added. The temperature is raised to about 90° C. and 4.8 mols (686 g) of β-chloroethyl chloroformate are then introduced gradually, whilst stirring. When the addition has ended, heating is maintained for 30 minutes at 90° C. The reaction medium is filtered hot. The cooled filtrate is diluted with petroleum ether to precipitate the desired product, which, after recrystallisation from dioxane and drying in vacuo, melts at 119° C.

reactant | 3-nitro-4-aminophenoxyethanol | 4 mols, 792 g | [N+](=O)([O-])C=1C=C(OC(C)O)C=CC1N | C8H10N2O4
reactant | calcium carbonate | 2.4 mols, 240 g | C([O-])([O-])=O.[Ca+2]
reactant | β-chloroethyl chloroformate | 4.8 mols, 686 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | dioxane | 1,600 ml | O1CCOCC1 | C4H8O2
product | β-chloroethyl 2-nitro-4-(β-hydroxyethoxy)-phenylcarbamate | [N+](=O)([O-])C1=C(C=CC(=C1)OCCO)NC(OCCCl)=O | C11H13ClN2O6
